### ISSUE TITLE
[`SimpleGraph`] Bridgeless vs 2-connectivity, and common graphs

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#119]
After we have `IsBridgeless` ([#43821](https://github.com/leanprover-community/mathlib4/pull/43821)), try these:

```lean
@[simp]
theorem isEdgeReachable_top : IsEdgeReachable ⊤ k u v ↔ u = v ∨ k ≤ 1 ∨ Nat.card V ≠ 2 := by
  simp
  sorry

@[simp]
theorem isEdgeConnected_top : (⊤ : SimpleGraph V).IsEdgeConnected k ↔ k ≤ 1 ∨ Nat.card V ≠ 2 := by
  sorry

theorem isBridgeless_iff_forall_connectedComponent :
    G.IsBridgeless ↔ ∀ C : G.ConnectedComponent, C.toSimpleGraph.IsEdgeConnected 2 := by
  rw [ConnectedComponent.forall]
  refine ⟨fun h v ↦ ?_, fun h ↦ ?_⟩
  · sorry
  · sorry
```

- bridgeless iff all components are 2-connected
- 2-connected ↔ preconnected ∧ bridgeless
  - preconnected → bridgeless iff 2-connected
  - bridgeless → preconnected iff 2-connected
  - 2-connected → bridgeless
  - preconnected → not 2-connected → bridgeless iff subsingleton
- cycle graph is bridgeless, and 2-connected
- path graph is bridgeless iff n ≤ 1, and not 2-connected
- star graph is bridgeless iff subsingleton, and not 2-connected

- Should we define `abbrev G.IsCubic := G.IsRegularOfDegree 3` like we have `IsBipartite`?
- Should we define `abbrev G.IsTriangleFree := G.CliqueFree 3` like we have `IsBipartite`?
